US08558000B2
To a 2-L Chem-Glass reactor was added 2,3-dichloropyridinol (90 g, 0.55 mol), 3,4-difluoronitrobenzene (100 g, 0.63 mol), lithium carbonate (59.4 g, 0.80 mol) and dimethyl sulfoxide (360 mL). The mixture was heated to 115° C. for 21 hrs, until the reaction was deemed complete by HPLC analysis. The mixture was cooled to 25° C. and methanol (180 mL) was added, followed by water (960 mL). The mixture was neutralized by addition of conc. HCl (60 g) and the resulting slurry was stirred at 35° C. for 1 h. After cooling to 28° C., the slurry was filtered on a Buechner funnel and the filter cake was washed with water (four times 250 mL). The crude cake was then suspended in methanol (20 mL) and water (250 mL), and the resulting mixture was stirred for 20 min at 45° C. After cooling to 25° C., the slurry was filtered. The resulting cake washed with heptane (two times 75 mL) and dried under vacuum to yield 164.68 g (99%) of 2,3-dichloro-4-(2-fluoro-4-nitrophenoxy)pyridine as yellow solid.

reactant | 2,3-dichloropyridinol | 0.55 mol, 90 g | ClC1(NC=CC=C1Cl)O | C5H5Cl2NO
reactant | 3,4-difluoronitrobenzene | 0.63 mol, 100 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | lithium carbonate | 0.80 mol, 59.4 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | HCl | 60 g | Cl | ClH
solvent | water | 960 mL | O | H2O
solvent | methanol | 180 mL | CO | CH4O
solvent | dimethyl sulfoxide | 360 mL | CS(=O)C | C2H6OS
product | 2,3-dichloro-4-(2-fluoro-4-nitrophenoxy)pyridine | 164.68 g, 99% | ClC1=NC=CC(=C1Cl)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C11H5Cl2FN2O3
